US07183290B2
A. Tert-butyl 1-(4-fluorophenyl)piperidin-4-ylcarbamate.
To a p-xylene (25 mL) solution containing 4-fluorobromobenzene (275 μL, 2.5 mmol, 1.0 eq), 4-N—BOC-aminopiperidine (1.0 g, 4.99 mmol, 2.0 eq), and potassium t-butoxide (393 mg, 3.5 mmol, 1.4 eq) was added palladium (II) acetate (6 mg, 1 mol %) and tri-t-butylphosphine (20 mg, 4 mol %). The resulting mixture was then heated to 120° C. for 4 h at which time it was poured into a sat. NaHCO3 solution and extracted (2×) with EtOAc. The combined extracts were dried over MgSO4 and concentrated in vacuo. The resulting oil was purified via column chromatography using 1:1 hexanes/EtOAc as the mobile phase. Isolated 485 mg (1.65 mmol, 67% yield).

reactant | 4-fluorobromobenzene | 2.5 mmol, 275 μL, 1.0 eq | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | 4-N—BOC-aminopiperidine | 4.99 mmol, 1.0 g, 2.0 eq | CC(C)(C)OC(=O)NC1CCNCC1 | C10H20N2O2
reactant | potassium t-butoxide | 3.5 mmol, 393 mg, 1.4 eq | CC(C)([O-])C.[K+]
reactant | tri-t-butylphosphine | 20 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | palladium (II) acetate | 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | p-xylene | 25 mL | CC=1C=CC(=CC1)C | C8H10
product | Tert-butyl 1-(4-fluorophenyl)piperidin-4-ylcarbamate | 67% yield | FC1=CC=C(C=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H23FN2O2
